US05034404
A mixture of 0.45g of 1,2-dimethyl-3-nitroisothiourea, 0.43g of 5-(aminomethyl)-2-chloropyridine and 25ml of ethanol was refluxed for 6 hours and concentrated. The residue was purified by a column chromatography [developing solvent: chloroform-ethanol (5:1)] to afford 0.25g of 1-(6-chloro-3-pyridylmethyl)-3-methyl-2-nitroguanidine (Compound No. 5).

reactant | 1,2-dimethyl-3-nitroisothiourea | 0.45g | CNC(SC)=N[N+](=O)[O-] | C3H7N3O2S
reactant | 5-(aminomethyl)-2-chloropyridine | 0.43g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
solvent | ethanol | 25ml | C(C)O | C2H6O
product | 1-(6-chloro-3-pyridylmethyl)-3-methyl-2-nitroguanidine | 0.25g | ClC1=CC=C(C=N1)CNC(=N[N+](=O)[O-])NC | C8H10ClN5O2
